US07635698B2
Step 4. N-(2-Amino-ethyl)-2-chloro-N-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-acetamide
{2-[[4-(tert-Butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-(2-chloro-acetyl)-amino]-ethyl}-carbamic acid tert-butyl ester (260 mg, 0.45 mmol) was dissolved in 1 mL of 4M HCl in dioxane solution. The mixture was stirred at RT for 1.5 h. After concentrating, a white solid was formed (200 mg). The LC-Mass showed two products as showed above. MS: (ESI), M/Z, 360 (M+1). Retention time: 1.31 min (FA-polar). MS: (ESI), M/Z, 474 (M+1). Retention time: 2.20 min (FA-polar).

reactant | {2-[[4-(tert-Butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-(2-chloro-acetyl)-amino]-ethyl}-carbamic acid tert-butyl ester | 0.45 mmol, 260 mg | C(C)(C)(C)OC(NCCN(C(CCl)=O)C1CN(CC1O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C=C1)Cl)=O)=O | C26H41Cl2N3O5Si
solvent | HCl | 4M, 1 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(2-Amino-ethyl)-2-chloro-N-[1-(4-chloro-benzoyl)-4-hydroxy-pyrrolidin-3-yl]-acetamide | NCCN(C(CCl)=O)C1CN(CC1O)C(C1=CC=C(C=C1)Cl)=O | C15H19Cl2N3O3
